US06794397B2
6-Chloro-N-(2-nitro-4,6-dimethylphenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 2-nitro-4,6-dimethylaniline as a light yellow solid as described in Example 1. 1H NMR (CDCl3): 9.09 (s, 1H), 8.97 (d, J=2.4, 1H), 8.22-8.18 (m, 1H), 7.60 (d, J=1.2, 1H), 7.50 (d, J=8.1, 1H), 7.42 (s, 1H), 2.43 (s, 3H), 2.35 (s, 3H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 2-nitro-4,6-dimethylaniline | [N+](=O)([O-])C1=C(N)C(=CC(=C1)C)C | C8H10N2O2
product | 6-Chloro-N-(2-nitro-4,6-dimethylphenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1C)C)[N+](=O)[O-] | C14H12ClN3O3
